US04604390
A solution of 5.0 g of 5-nitro-2-[2-(diethylamino)-ethyl]-2H-[1]benzopyrano[4,3,2-cd]indazol-8-ol in 200 ml of DMF with 0.2 g of 20% palladium hydroxide on carbon was stirred under a hydrogen atmosphere for 24 hours. The mixture was filtered and the filtrate was evaporated in vacuo to leave the product 5-amino-2-[2-(diethylamino)-ethyl]-2H-[1]benzopyrano[4,3,2-cd]indazol-8-ol as an oily solid.

reactant | 5-nitro-2-[2-(diethylamino)-ethyl]-2H-[1]benzopyrano[4,3,2-cd]indazol-8-ol | 5.0 g | [N+](=O)([O-])C1=C2C=3C(=NN(C3C=C1)CCN(CC)CC)C1=C(O2)C=C(C=C1)O | C19H20N4O4
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
catalyst | palladium hydroxide on carbon | 0.2 g | [OH-].[OH-].[Pd+2]
product | 5-amino-2-[2-(diethylamino)-ethyl]-2H-[1]benzopyrano[4,3,2-cd]indazol-8-ol | NC1=C2C=3C(=NN(C3C=C1)CCN(CC)CC)C1=C(O2)C=C(C=C1)O | C19H22N4O2
